US08022076B2
A mixture of 2-amino-4-phenylthiophene-3-carboxylic acid amide (3.0 g, 13.8 mmol) and anhydrous pyridine (12 ml) was treated with propionyl chloride (1.32 ml, 15.2 mmol) and stirred at ambient temperature for 3 hours. The excess pyridine was removed in vacuo to give a residue, which was treated with ethanol (50 ml) and sodium methoxide (2.24 g, 41.4 mmol) and the resultant mixture was heated under reflux for 18 hours. The cooled mixture was then diluted with water (300 ml) and acidified with concentrated hydrochloric acid. The resulting solid was collected by filtration, washed with water and dried in vacuo to give 4-phenyl-2-propionylaminothiophene-3-carboxylic amide.

reactant | 2-amino-4-phenylthiophene-3-carboxylic acid amide | 13.8 mmol, 3.0 g | NC=1SC=C(C1C(=O)N)C1=CC=CC=C1 | C11H10N2OS
reactant | propionyl chloride | 15.2 mmol, 1.32 ml | C(CC)(=O)Cl | C3H5ClO
reactant | sodium methoxide | 41.4 mmol, 2.24 g | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 4-phenyl-2-propionylaminothiophene-3-carboxylic amide | C1(=CC=CC=C1)C=1C(=C(SC1)NC(CC)=O)C(=O)N | C14H14N2O2S
